US05952331
2-Amino-4-(4-fluoronaphth-1-yl)-6-isopropyl-pyrimidine (0.281 g) was dissolved in dimethyl sulphoxide (DMSO) (10 mL) and sodium thiomethoxide (0.070 g) was added. The reaction mixture was stirred at room temperature for 2 hours at which time another equivalent of thiomethoxide was added and the reaction stirred for another 2 hours. The mixture was poured into water (100 mL) and the product was extracted into ethyl acetate/hexane (3×50 mL). The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The reaction product was purified by column chromatography on silica gel, eluting with hexane/ethyl acetate to give 2-amino-4-(4-methylthionaphth-1-yl)-6-isopropylpyrimidine (0.303 g), m.p. 139-140° C.

reactant | 2-Amino-4-(4-fluoronaphth-1-yl)-6-isopropyl-pyrimidine | 0.281 g | NC1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C17H16FN3
reactant | sodium thiomethoxide | 0.070 g | C[S-].[Na+]
reactant | thiomethoxide | C[S-]
reactant | water | 100 mL | O | H2O
solvent | dimethyl sulphoxide | 10 mL | CS(=O)C | C2H6OS
product | 2-amino-4-(4-methylthionaphth-1-yl)-6-isopropylpyrimidine | 0.303 g | NC1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)SC)C(C)C | C18H19N3S
